US07074800B1
7-Hydroxyquinazoline (87 mg, 0.6 mmol) and potassium carbonate (110 mg, 0.8 mmol) were added to 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (180 mg, 0.53 mmol), prepared as described for the starting material in Example 1), in suspension in DMF (3 ml) under an argon atmosphere. The reaction mixture was heated to 100° C. for 90 minutes. Upon cooling to ambient temperature the reaction was diluted with ethyl acetate and a saturated ammonium chloride solution. The aqueous phase was re-extracted with ethyl acetate, the organic phases combined, dried (MgSO4) and the solvent evaporated. The residue was purified by flash chromatography using a gradient of methanol/dichloromethane (3/97, 4/96, 5/95). Evaporation of the solvent and trituration of the solid with ether gave 6-methoxy-7-(3-morpholinopropoxy)-4-(quinazolin-7-yloxy)quinazoline (197 mg, 83%).

reactant | 7-Hydroxyquinazoline | 0.6 mmol, 87 mg | OC1=CC=C2C=NC=NC2=C1 | C8H6N2O
reactant | potassium carbonate | 0.8 mmol, 110 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.53 mmol, 180 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-methoxy-7-(3-morpholinopropoxy)-4-(quinazolin-7-yloxy)quinazoline | 197 mg, 83% | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCOCC1)OC1=CC=C2C=NC=NC2=C1 | C24H25N5O4
